2111-08-25 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 86yo F with metastatic esophageal ca presents to THE
   [**Hospital Unit Name 4**] after respiratory distress following esophageal stent placement.
   24 Hour Events:
   - Complaining of minor headache and mild esophageal pain, relieved with
   morphine
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2111-8-24**] 04:56 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2111-8-25**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-25**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 91 (90 - 109) bpm
   BP: 135/70(86) {111/58(73) - 156/96(104)} mmHg
   RR: 23 (21 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.4 kg (admission): 51.6 kg
   Height: 64 Inch
             Total In:
                                                                    231 mL
                                                                     74 mL
   PO:
             TF:
   IVF:
                                                                    171 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    300 mL
   Urine:
                                                                  1,100 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -869 mL
                                                                   -226 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   GEN: Elderly female, lying flat in bed in NAD.
   HEENT: EOMI, sclera anicteric, dry MM, OP Clear
   NECK: No JVD, no cervical lymphadenopathy, trachea midline
   COR: RRR, normal S1, S2, no murmurs, rubs, or gallops
   PULM: coarse rhonchi diffusely, no wheezes
   ABD: Soft, NT, ND
   EXT: WWP, no edema
   NEURO: alert, oriented to person, place, and time. No gross motor or
   sensory deficits
   Labs / Radiology
   325 K/uL
   12.5 g/dL
   159 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.7 mEq/L
   9 mg/dL
   99 mEq/L
   137 mEq/L
   39.4 %
   23.2 K/uL
        [image002.jpg]
                             [**2111-8-24**]  08:43 PM
                             [**2111-8-24**]  09:00 PM
                             [**2111-8-25**]  04:10 AM
   WBC
   23.6
   23.2
   Hct
   38.1
   39.4
   Plt
   312
   325
   Cr
   0.6
   0.6
   Glucose
   116
   159
   Other labs: PT / PTT / INR:11.9/26.4/1.0, Differential-Neuts:95.7 %,
   Lymph:1.9 %, Mono:2.2 %, Eos:0.2 %, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   Pt is a 86yo F with metastatic esophageal ca presents to the [**Hospital Unit Name 4**] after
   respiratory distress and presumed aspiration following esophageal stent
   placement.
   .
   # Resp Distress: Pt with metastatic esophageal ca presents after
   palliative esophageal stent placement. Pt with resp distress with
   desaturation to 89% and tachypnea to 34. Thought to be due to
   aspiration. This morning the patient is comfortable on 3L.
   - CXR stable today
   - contact primary providers at OSH to find baseline CXR
   - hold on CT given stable clinical status. If worsens or CXR worsens
   will get non-con CT chest
   - nebs albuterol q4 prn, ipratropium q6
   - repeat labs
   - wean O2 as tolerated
   - no abx for now given presumptive diagnosis of chemical pneumonitis
   from aspiration; follow WBC and expect a decrease tomorrow. If not, can
   consider adding abx.
   .
   #. A-fib: Pt with h/o a-fib on dilt and amio.  She is regular on exam,
   but no ECG completed yet. Not on anti-coagulation.
   Will cont to monitor.
   - ECG in sinus, one episode of afib to rate of 140 this morning that
   quickly resolved
   - cont amio and dilt per home regimen
   - monitor on tele
   .
   #. HTN: stable BP 137/96. Cont home dilt.
   .
   #. GERD: stable, cont PPI
   .
   #. h/o shingles 7 weeks prior: pt still with some tenderness. Will cont
   gabapentin and shingles precautions.
   ICU Care
   Nutrition: continue home liquid diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-8-24**] 05:04 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to regular medical floor today

2111-08-26 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - increased to dilt 90 po qid (from 60 qid) for afib in 130-140s with
   SBP in 90s, otherwise asymptomatic
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2111-8-24**] 04:56 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-8-25**] 08:27 AM
   Heparin Sodium (Prophylaxis) - [**2111-8-25**] 10:00 PM
   Morphine Sulfate - [**2111-8-26**] 05:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-26**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 96 (91 - 137) bpm
   BP: 89/53(61) {78/42(52) - 125/72(81)} mmHg
   RR: 27 (21 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.4 kg (admission): 51.6 kg
   Height: 64 Inch
             Total In:
                                                                  1,040 mL
                                                                     69 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                    740 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    205 mL
   Urine:
                                                                  1,010 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     30 mL
                                                                   -136 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   GEN: Elderly female, lying flat in bed in NAD.
   HEENT: EOMI, sclera anicteric, dry MM, OP Clear
   NECK: No JVD, no cervical lymphadenopathy, trachea midline
   COR: RRR, normal S1, S2, no murmurs, rubs, or gallops
   PULM: coarse rhonchi diffusely, no wheezes
   ABD: Soft, NT, ND
   EXT: WWP, no edema
   NEURO: alert, oriented to person, place, and time. No gross motor or
   sensory deficits
   Labs / Radiology
   342 K/uL
   11.5 g/dL
   135 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.0 mEq/L
   14 mg/dL
   101 mEq/L
   135 mEq/L
   35.0 %
   20.3 K/uL
        [image002.jpg]
                             [**2111-8-24**]  08:43 PM
                             [**2111-8-24**]  09:00 PM
                             [**2111-8-25**]  04:10 AM
                             [**2111-8-26**]  04:31 AM
   WBC
   23.6
   23.2
   20.3
   Hct
   38.1
   39.4
   35.0
   Plt
   [**Telephone/Fax (3) 7894**]
   Cr
   0.6
   0.6
   0.5
   Glucose
   116
   159
   135
   Other labs: PT / PTT / INR:10.8/29.4/0.9, Differential-Neuts:95.7 %,
   Lymph:1.9 %, Mono:2.2 %, Eos:0.2 %, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   Pt is a 86yo F with metastatic esophageal ca presents to the [**Hospital Unit Name 4**] after
   respiratory distress and presumed aspiration following esophageal stent
   placement.
   .
   # Resp Distress: Pt with metastatic esophageal ca presents after
   palliative esophageal stent placement. Pt with resp distress with
   desaturation to 89% and tachypnea to 34. Thought to be due to
   aspiration. This morning the patient is comfortable on 3L.
   - CXR stable today
   - contact primary providers at OSH to find baseline CXR
   - hold on CT given stable clinical status. If worsens or CXR worsens
   will get non-con CT chest
   - nebs albuterol q4 prn, ipratropium q6
   - repeat labs
   - wean O2 as tolerated
   - no abx for now given presumptive diagnosis of chemical pneumonitis
   from aspiration; follow WBC and expect a decrease tomorrow. If not, can
   consider adding abx.
   .
   #. A-fib: Pt with h/o a-fib on dilt and amio.  She is regular on exam,
   but no ECG completed yet. Not on anti-coagulation.
   Will cont to monitor.
   - ECG in sinus, one episode of afib to rate of 140 this morning that
   quickly resolved
   - cont amio and dilt per home regimen
   - monitor on tele
   .
   #. HTN: stable BP 137/96. Cont home dilt.
   .
   #. GERD: stable, cont PPI
   .
   #. h/o shingles 7 weeks prior: pt still with some tenderness. Will cont
   gabapentin and shingles precautions.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-8-24**] 05:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-08-27 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - UA positive, covered with levo/flagy. Cx pending
   - better rate controlled with dilt 90 QID, but with breakthrough tachy
   and hypotension responsive to fluid boluses
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2111-8-24**] 04:56 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-8-26**] 09:33 AM
   Morphine Sulfate - [**2111-8-26**] 07:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-27**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 94 (79 - 129) bpm
   BP: 112/70(80) {78/42(58) - 125/73(81)} mmHg
   RR: 23 (20 - 37) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 50.4 kg (admission): 51.6 kg
   Height: 64 Inch
             Total In:
                                                                  1,440 mL
                                                                     72 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                    740 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    250 mL
   Urine:
                                                                  1,105 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    335 mL
                                                                   -178 mL
   Respiratory support
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   GEN: Elderly female, lying flat in bed in NAD.
   HEENT: EOMI, sclera anicteric, dry MM, OP Clear
   NECK: No JVD, no cervical lymphadenopathy, trachea midline
   COR: RRR, normal S1, S2, no murmurs, rubs, or gallops
   PULM: CTAB, mild wheezes throughout
   ABD: Soft, NT, ND
   EXT: WWP, no edema
   NEURO: alert, oriented to person, place, and time. No gross motor or
   sensory deficits
   Labs / Radiology
   278 K/uL
   10.6 g/dL
   124 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.9 mEq/L
   12 mg/dL
   101 mEq/L
   135 mEq/L
   32.1 %
   15.1 K/uL
        [image002.jpg]
                             [**2111-8-24**]  08:43 PM
                             [**2111-8-24**]  09:00 PM
                             [**2111-8-25**]  04:10 AM
                             [**2111-8-26**]  04:31 AM
                             [**2111-8-27**]  04:39 AM
   WBC
   23.6
   23.2
   20.3
   15.1
   Hct
   38.1
   39.4
   35.0
   32.1
   Plt
   [**Telephone/Fax (3) 7917**]78
   Cr
   0.6
   0.6
   0.5
   0.5
   Glucose
   116
   159
   135
   124
   Other labs: PT / PTT / INR:10.8/29.4/0.9, Differential-Neuts:95.7 %,
   Lymph:1.9 %, Mono:2.2 %, Eos:0.2 %, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:1.8 mg/dL
   Color
   Yellow
   Appear
   Clear
   SpecGr
   1.015
   pH
   6.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Sm
   Bld
   Tr
   Nitr
   Neg
   Prot
   100
   Glu
   Neg
   Ket
   Tr
   RBC
   4
   WBC
   22
   Bact
   Few
   Yeast
   None
   Epi
   Blood and Urine Cx:  Pending
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 DYSPNEA (SHORTNESS OF BREATH)
   Pt is a 86yo F with metastatic esophageal ca presents to the [**Hospital Unit Name 4**] after
   respiratory distress and presumed aspiration following esophageal stent
   placement.
   .
   # Resp Distress: Pt with metastatic esophageal ca presents after
   palliative esophageal stent placement. Pt with resp distress with
   desaturation to 89% and tachypnea to 34. Thought to be due to
   aspiration. This morning the patient is comfortable on room air and is
   reporting no dyspnea. WBC is not trending down.
   - nebs albuterol q4 prn, ipratropium q6
   - wean O2 as tolerated
   - cont  levo/flagyl for empiric treatment of aspiration PNA
   #Positive UA:  Patient now w/ positive UA, no sx of dysuria, frequency,
   urgency, abd pain.  Initial UCx (-), another UCx is pending.
   -cont levo/flagyl
   -f/u UCx
   .
   #. A-fib: Pt with h/o a-fib on dilt and amio.  She is regular on exam,
   but had one episode of a-fib to HR 140s yesterday and dilt dose was
   increased. Not on anti-coagulation. Increased a-fib and HR may be
   secondary to an infection from aspiration pneumonia. Will stay the
   course with current dose of amio and monitor vital signs.  Dilt was
   increased to 90 QID w/ a moderate response, but HR still in the
   100-110s.
   -will start metoprolol 12.5 PO bid for better HR control
   - cont dilt and amio
   - monitor on tele
   .
   #. HTN: One episode of hypoTN overnight that was responsive to IVF.
   -will cont to monitor BP closely as another nodal [**Doctor Last Name **] was added today
   .
   #. GERD: stable, cont PPI
   .
   #. h/o shingles 7 weeks prior: pt still with some tenderness. Shingles
   precautions. Add home dose gabapentin.
   ICU Care
   Nutrition: home liquid diet, zofran for nausea
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-8-24**] 05:04 PM
   Prophylaxis:
   DVT: SCH
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU level of care

2111-08-28 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - started metoprolol 12.5 PO BID for better HR control w/ good
   response, no lowering of BP
   - had episode of resp distress at noon after having some sips and 1L
   bolus in the AM. Sats stable at 96. Will get STAT CXR, ABG, nebs, lasix
   20
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2111-8-27**] 08:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2111-8-27**] 07:39 PM
   Heparin Sodium (Prophylaxis) - [**2111-8-27**] 10:18 PM
   Morphine Sulfate - [**2111-8-28**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-28**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 86 (82 - 120) bpm
   BP: 92/61(68) {92/29(46) - 119/79(93)} mmHg
   RR: 21 (20 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 50.4 kg (admission): 51.6 kg
   Height: 64 Inch
             Total In:
                                                                  1,040 mL
                                                                    273 mL
   PO:
                                                                    800 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    240 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    600 mL
   Urine:
                                                                    950 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     90 mL
                                                                   -327 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   GEN: Elderly female, lying flat in bed in NAD.
   HEENT: EOMI, sclera anicteric, dry MM, OP Clear
   NECK: No JVD, no cervical lymphadenopathy, trachea midline
   COR: RRR, normal S1, S2, no murmurs, rubs, or gallops
   PULM: CTAB, mild wheezes throughout
   ABD: Soft, NT, ND
   EXT: WWP, no edema
   NEURO: alert, oriented to person, place, and time. No gross motor or
   sensory deficits
   Labs / Radiology
   305 K/uL
   11.1 g/dL
   102 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.2 mEq/L
   11 mg/dL
   97 mEq/L
   135 mEq/L
   34.3 %
   10.5 K/uL
        [image002.jpg]
                             [**2111-8-24**]  08:43 PM
                             [**2111-8-24**]  09:00 PM
                             [**2111-8-25**]  04:10 AM
                             [**2111-8-26**]  04:31 AM
                             [**2111-8-27**]  04:39 AM
                             [**2111-8-28**]  04:23 AM
   WBC
   23.6
   23.2
   20.3
   15.1
   10.5
   Hct
   38.1
   39.4
   35.0
   32.1
   34.3
   Plt
   [**Telephone/Fax (3) 7917**]78
   305
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   Glucose
   116
   159
   135
   124
   102
   Other labs: PT / PTT / INR:10.8/29.4/0.9, Differential-Neuts:95.7 %,
   Lymph:1.9 %, Mono:2.2 %, Eos:0.2 %, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.1 mg/dL
   .
   Ucx
 neg
   Bcx
 pending
   .
   CXR
 worsening LUL and LLL consolidation with new RLL tenting and
   effusion
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
 DYSPNEA (SHORTNESS OF BREATH)
   .
   . Pt is a 86yo F with metastatic esophageal ca presents to the [**Hospital Unit Name 4**]
   after respiratory distress and presumed aspiration following esophageal
   stent placement.
   .
   # Resp Distress: Pt with metastatic esophageal ca presents after
   palliative esophageal stent placement. Pt with resp distress with
   desaturation to 89% and tachypnea to 34. Thought to be due to
   aspiration. This morning the patient is comfortable on room air and is
   reporting no dyspnea, although at noon she had an acute episode of resp
   distress after some sips, also had 1L bolus in AM. Concern for
   re-aspiration event vs flash pulm edema. WBC is trending down.
   - for acute exacerbation: STAT CXR, abg, lasix 20 iv x1, nebs
   - speech/swallow c/s
   - will make NPO now
   - cont nebs albuterol q4 prn, ipratropium q6
   - wean O2 as tolerated
   - cont  levo/flagyl (day 1 is [**8-26**]) for empiric treatment of aspiration
   PNA
   .
   #. A-fib: Pt with h/o a-fib on dilt and amio.  She is regular on exam,
   but had one episode of a-fib to HR 140s yesterday and dilt dose was
   increased. Not on anti-coagulation. Increased a-fib and HR may be
   secondary to an infection from aspiration pneumonia. Will stay the
   course with current dose of amio and monitor vital signs.  Dilt was
   increased to 90 QID w/ a moderate response, but HR still in the
   100-110s. Started metoprolol 12.5 PO bid on [**8-26**] for better HR control.
   - cont dilt 90 po qid, metop 12.5 po bid, amio 200 po daily
   - monitor on tele
   .
   #. HTN: Pressures good around [**Age over 90 **] yesterday and have since trended down
   to around 90. LOS fluid balance is -760. No baseline renal dysfxn, no
   concern on echo.
   -will give 1L IVF bolus this AM and consider starting maintenance IVF
   .
   #Positive UA:  Patient w/ positive UA on [**8-26**], no sx of dysuria,
   frequency, urgency, abd pain.  Initial UCx (-), another UCx is pending.
   -cont levo/flagyl
   -f/u UCx
   .
   #. GERD: stable, cont PPI
   .
   #. h/o shingles 7 weeks prior: pt still with some tenderness. Shingles
   precautions. Add home dose gabapentin.
   ICU Care
   Nutrition: NPO for now given ?aspiration, s+s evaluation, zofran for
   nausea
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-8-24**] 05:04 PM
   Prophylaxis:
   DVT: SCH
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU level of care

2111-08-29 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - had episode of resp distress, which improved with nebs, ?aspiration
   event, given lasix 20 bolus
   - CTA showed no PE; +atelectasis; possible secretions in esoph and
   distal soft tissue density / GI not concerned unless we feel there is
   clinical concern such as obstruction/recurrent aspiration events
   - S+S: no thin liqs / recommended: thick nectars
   - changed metoprolol 12.5 [**Hospital1 **] to tid, with marked effect, HR in 70s,
   BPs steady around 100
   No SOB/n/v/cp/lightheadedness
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2111-8-28**] 10:00 AM
   Metronidazole - [**2111-8-28**] 12:20 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-8-28**] 08:00 AM
   Furosemide (Lasix) - [**2111-8-28**] 12:19 PM
   Morphine Sulfate - [**2111-8-28**] 07:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-29**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 80 (68 - 127) bpm
   BP: 97/83(87) {90/50(62) - 135/83(96)} mmHg
   RR: 23 (21 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 50.4 kg (admission): 51.6 kg
   Height: 64 Inch
                  Total In:
                                                                  1,381 mL
                  PO:
                                                                    320 mL
                  TF:
   IVF:
                                                                  1,061 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    300 mL
   Urine:
                                                                  2,150 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -770 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97% on 2L
   ABG: ///29/
   Physical Examination
   GEN: Pleasant, elderly female, lying flat in bed in NAD.
   HEENT: EOMI, sclera anicteric, dry MM, OP Clear
   NECK: No JVD, no cervical lymphadenopathy, trachea midline
   COR: Irreg, irreg rhythm, tachycardic normal S1, S2, no murmurs, rubs,
   or gallops
   PULM: Poor air entry. mild wheezes throughout
   ABD: Soft, NT, ND
   EXT: WWP, no edema
   NEURO: alert, oriented to person, place, and time.
   Labs / Radiology
   305 K/uL
   11.3 g/dL
   104 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.0 mEq/L
   10 mg/dL
   98 mEq/L
   134 mEq/L
   35.4 %
   10.1 K/uL
        [image002.jpg]
                             [**2111-8-24**]  08:43 PM
                             [**2111-8-24**]  09:00 PM
                             [**2111-8-25**]  04:10 AM
                             [**2111-8-26**]  04:31 AM
                             [**2111-8-27**]  04:39 AM
                             [**2111-8-28**]  04:23 AM
                             [**2111-8-29**]  05:05 AM
   WBC
   23.6
   23.2
   20.3
   15.1
   10.5
   10.1
   Hct
   38.1
   39.4
   35.0
   32.1
   34.3
   35.4
   Plt
   [**Telephone/Fax (3) 7947**]
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.6
   Glucose
   116
   159
   135
   124
   102
   104
   Other labs: PT / PTT / INR:10.8/29.4/0.9, Differential-Neuts:95.7 %,
   Lymph:1.9 %, Mono:2.2 %, Eos:0.2 %, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.3 mg/dL
   CT scan ([**2111-8-28**]):
   1. No pulm embolism
   2. Large bilateral pleural effusions (L>R) with associated atelectasis.
   ?CHF since has cardiomegaly.
   3. Small amoutn of secretions within the RLL bronchus and layering of
   material within the lower esophageal wall stent. Aspiration is a
   possibility.
   4. Large pulm artery suggestive of pulmonary HTN.
   5. Probably patent lower esophageal stent, but barium swallow would
   tell definitively.
   Cultures:
   Urine ([**2111-8-26**]): no growth, final
   Blood ([**2111-8-26**]): no growth to date
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
 DYSPNEA (SHORTNESS OF BREATH)
   Pt is a 86yo F with metastatic esophageal ca presents to the [**Hospital Unit Name 4**] after
   respiratory distress and presumed aspiration following esophageal stent
   placement.
   . #. A-fib with episodes of RVR: Pt with h/o a-fib.  Has been
   converting back and forth on A.fib. Not on anti-coagulation. Increased
   a-fib and HR may be secondary to an infection from aspiration
   pneumonia. Will stay the course with current dose of amio and monitor
   vital signs.  Dilt was increased to 90 QID w/ a moderate response, but
   HR still in the 100-110s. Started metoprolol 12.5 PO bid on [**8-26**] for
   better HR control. Increased metoprolol to TID on [**8-27**].
   - cont dilt 90 po qid, metop 12.5 po Tid, amio 200 po daily
   - monitor on tele
   # Resp Distress: Pt with metastatic esophageal ca presents after
   palliative esophageal stent placement. Pt with resp distress with
   desaturation to 89% and tachypnea to 34. Thought to be due to
   aspiration. This morning the patient is comfortable on 2L NC and is
   reporting no dyspnea. Had possible aspiration event witnessed
   yesterday. CT chest showed no PE, responded to Lasix IV. S/S
   recommendation for thick nectar.
   - for acute exacerbation: STAT CXR, abg, lasix 20 iv x1, nebs
   - cont ipratropium q6. Hold albuerol given tachycardia.
   - wean O2 as tolerated
   - cont  levo/flagyl (day 1 is [**8-26**]) for empiric treatment of aspiration
   PNA
   - Consider Lasix IV treatment if think clinically fluid overloaded.
   .
   #. HTN: Pressures good around SBP~100-110 with some dipping into 90.
   Asymptomatic. No baseline renal dysfxn, no concern on echo.
   -On metoprolol, diltiazem for A.fib/BP control
    #. h/o shingles 7 weeks prior: pt still with some tenderness. Shingles
   precautions.
   - continue gabapentin
   - Oxycontin PRN started today.
   #Positive UA:  Patient w/ positive UA on [**8-26**], no sx of dysuria,
   frequency, urgency, abd pain.  Initial UCx (-), another UCx is pending.
   -cont levo/flagyl
   -f/u UCx
   .
   #. GERD: stable, cont PPI
   ICU Care
   Nutrition: Thick nectar diet.
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-8-26**] 05:04 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: patient and family aware of care
   Code status: Full code, as per patient.. Able to make decisions
   herself. Family thought patient was DNR/DNI.
   Disposition: Transferred to floors today.